US07405210B2
Preparation 87: Benzylmethyl(tetrahydropyran-4-yl)amine
The title compound was prepared according to Preparation 85 from N-benzylmethylamine and tetrahydro-4H-pyran-4-one. Purification of the crude material by chromatography using dichloromethane/methanol (98:2) as the eluent gave the title compound as a yellow oil. δH (CD3OD): 7.50–7.40 (5H, m), 4.08 (2H, m), 4.06-(2H, s), 3.49–3.40 (2H, ddd), 3.23–3.14 (1H, m), 2.51 (3H, s), 2.03–1.97 (2H, m), 1.89–1.76 (2H, m).

reactant | N-benzylmethylamine | C(C1=CC=CC=C1)CN | C8H11N
reactant | tetrahydro-4H-pyran-4-one | O1CCC(CC1)=O | C5H8O2
product | Benzylmethyl(tetrahydropyran-4-yl)amine | C(C1=CC=CC=C1)CNC1CCOCC1 | C13H19NO
